US05236952
2.25 g of 3,4-dihydroxy-5-nitrocinnamic acid are dissolved in 50 ml of methanol and hydrochloric acid gas is introduced into this solution for 10 minutes. After 1 hour 50 ml of isopropyl ether are added thereto, and the separated precipitate is filtered under suction and washed with isopropyl ether. After recrystallization from methanol/ether there is obtained methyl 3,4-dihydroxy-5-nitrocinnamate in the form of yellow crystals of m.p. 186°-187°.

reactant | 3,4-dihydroxy-5-nitrocinnamic acid | 2.25 g | OC=1C=C(C=CC(=O)O)C=C(C1O)[N+](=O)[O-] | C9H7NO6
reactant | hydrochloric acid | Cl | ClH
reactant | isopropyl ether | 50 ml | C(C)(C)OC(C)C | C6H14O
solvent | methanol | 50 ml | CO | CH4O
product | methyl 3,4-dihydroxy-5-nitrocinnamate | OC=1C=C(C=CC(=O)OC)C=C(C1O)[N+](=O)[O-] | C10H9NO6
